US08492376B2
trans-4-(2-Chloro-pyridin-3-yl)-cyclohexanecarboxylic acid ethyl ester
To a solution of trans-4-(2-amino-pyridin-3-yl)-cyclohexanecarboxylic acid ethyl ester (0.21 g, 0.86 mmol) in concentrated hydrochloric acid (3.7 ml, 43 mmol) was added solid sodium nitrite (1.49 g, 21.5 mmol) at 0-5° C. The cooling bath was removed and copper(I) chloride (3.58 g, 36.2 mmol) was added at room temperature. After stirring for 2 h the mixture was partitioned between water (50 ml) and ethyl acetate (50 ml). The organic layer was collected. The aqueous layer was extracted with two 50-ml portions of ethyl acetate. The combined organic layers were dried over anhydrous sodium sulfate and concentrated to dryness. Flash-chromatography with n-heptane/ethyl acetate as eluent gave the title compound (0.093 g, 44%) as yellow oil. MS m/e: 268 ([M+H]+)

reactant | trans-4-(2-amino-pyridin-3-yl)-cyclohexanecarboxylic acid ethyl ester | 0.86 mmol, 0.21 g | C(C)OC(=O)[C@@H]1CC[C@H](CC1)C=1C(=NC=CC1)N | C14H20N2O2
reactant | hydrochloric acid | 43 mmol, 3.7 ml | Cl | ClH
reactant | sodium nitrite | 21.5 mmol, 1.49 g | N(=O)[O-].[Na+]
catalyst | copper(I) chloride | 36.2 mmol, 3.58 g | [Cu]Cl
product | trans-4-(2-Chloro-pyridin-3-yl)-cyclohexanecarboxylic acid ethyl ester | 0.093 g, 44% | C(C)OC(=O)[C@@H]1CC[C@H](CC1)C=1C(=NC=CC1)Cl | C14H18ClNO2
